Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
blue dye
 
Attending: ___
 
Chief Complaint:
anemia
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
As per HPI by admitting MD: 

___ who presents on POD7 after ___ butt lift surgery (BBL)
with symptomatic anemia.

For any uninformed readers, BBL is a procedure where fat is
harvested from other areas of the body via conventional
liposuction, then is injected into the buttocks (usually
subcutaneously, but sometimes deeper) with a goal of aesthetic
enhancement. The procedure is frequently complicated by fat
emboli if the surgeon inadvertently injects the autologous fat
tissue into a vein. For this reason, it carries one of the
highest fatality rates of all cosmetic procedures.
This patient traveled to ___ to have her BBL with surgeon Dr.
___ (I have verified that Dr. ___ is a qualified
specialist who has completed a reputable plastic surgery
residency, has published on the topic of complications from BBL,
and is in good standing with the ___ Board of Medicine). 

Starting on the day after surgery, she began to feel lightheaded
and has had DOE and poor exercise tolerance. She contacted the
plastic surgeon's office by phone and was advised to take iron
pills for presumed blood-loss anemia. Of note, she was on 
Lovenox
for three days after the procedure, which is used on a
case-by-case basis after BBL for DVT risk, but generally with
caution due to the risk of bleeding after liposuction. She has
also been massaging her midriff daily (which is standard after
liposuction to give a more soft and even healing result), but 
she
has noted a large amount of serosanguinous fluid expressed
through the liposuction incision sites during these massages.  

She presented to her PCP for her ongoing lightheadedness 
symptoms
and was found to have Hgb of 6.5. She was advised to present to
the ED.

In the ED, vitals were: 98.0F, HR 117 (up to 130s when 
standing),
BP 135/74, RR 16, SpO2 100% RA. Hgb was stable from the day 
prior
at 6.5. 

She was seen by plastics in the ED who agreed with transfusion,
and noted that if she continues to have dyspnea after correction
of anemia, that a CTPE to assess for fat embolism should then be
considered. They advised continued wound care as per the
instructions of her outside surgeon.

She was transfused one unit of blood and admitted for
observation.

REVIEW OF SYSTEMS
 GEN: denies fevers/chills
 CARDIAC: denies chest pain or palpitations
 PULM: denies new dyspnea or cough
 GI: denies n/v, denies change in bowel habits
 GU: denies dysuria or change in appearance of urine
 Full 14-system review of systems otherwise negative and
non-contributory. 
 
Past Medical History:
Depression
Hyperlipidemia
Anemia 
___ butt lift surgery ___
 
Social History:
___
Family History:
None significant per patient
 
Physical Exam:
Admission exam:
 VITALS: 115 / 73 105 18 99 RA 
 CONSTITUTIONAL: well-appearing young woman in NAD
 EYE: sclerae anicteric, EOMI
 ENT: audition grossly intact, MMM, OP clear 
 LYMPHATIC: No LAD
 CARDIAC: RRR, no M/R/G, JVP not elevated, no edema
 PULM: normal effort of breathing, LCAB
 GI: soft, NT, ND, NABS
 GU: no CVA tenderness, suprapubic region soft and nontender
 MSK: no visible joint effusions or acute deformities.
 NEURO: AAOx3. No facial droop, moving all extremities.
 PSYCH: Full range of affect
 DERM: abdomen, lower back and buttocks are diffusely firm on
palpation consistent with an expected diffuse region of
inflammation from traumatized SQ fat tissues. There is no
localized collection on palpation to suggest any large hematoma. 


Discharge exam: 
VS T97.5, BP 111/73, HR 88, RR 18, O2 98% RA 
Gen - resting comfortably in bed, well appearing 
HEENT - moist oral mucosa, no OP lesions
Eyes - pale, anicteric
___ - RRR, s1/2, no murmurs appreciated 
Pulm - CTA b/l, no w/r/r
GI - girdle in place, skin not visualized. soft, non tender, non 
distended, +bowel sounds 
Ext - no peripheral edema or cyanosis 
Skin - warm and dry
Psych - calm and cooperative 
 
Pertinent Results:
Labs on admission
WBC 11.5, Hg 6.5, Hct 20.1, Plt 282 
Reticulocyte count (absolute) ___
Ferritin 184, Hapto 237, Folate >20, B12 556, TIBC 280
ALT 134, AST 110, LDH 485, T bili 0.5

Labs on discharge
CBC checked BEFORE 2nd unit of blood transfused
WBC 12.0, Hg 7.5, Hct 23.8, Plt 298
Glucose 148
ALT 142, AST 66, ALP 81, T bili 0.4

CT A/P ___
IMPRESSION: 
  
  
1. Fatty infiltration of the gluteus maximi, bilaterally, 
compatible with 
recent surgery. 
2. Diffuse, extensive subcutaneus fat stranding and edema, 
likely reflective of post liposuction and surgical change.  A 
more organized collection of fluid measures 7.0 x 1.1 cm in the 
subcutaneous tissues of the left anterior abdomen and most 
likely reflects a postoperative seroma or hematoma. 
3. No definite evidence of intra-abdominal hemorrhage.  No intra 
or 
extrahepatic biliary ductal dilatation. 
  

 
Brief Hospital Course:
___ who presents on POD7 after ___ butt lift surgery (BBL) 
with symptomatic anemia, presumed to be from perioperative blood 
loss in the setting of extensive liposuction.

#Anemia 
Admitted to the hospital with symptomatic anemia, most likely 
post-operative blood loss anemia leading to symptoms given 
degree of anemia. At baseline she is not anemic. She had a CT 
A/P which did not show any active bleeding but showed a small 
seroma/hematoma, discussed with plastics team not felt necessary 
to drain. She received 2u pRBC with significant subjective 
improvement in her symptoms of dyspnea. Her tachycardia also 
improved. Labs do not suggest hemolysis and her reticulocyte 
count is appropriately elevated. She will need a repeat CBC 
within 1 week of discharge. She may f/u with her plastic surgeon 
as needed. Advised her to avoid nsaids to prevent any further 
bleeding. 

#Elevated LFT
-Slight transaminitis noted. She reports a history of fatty 
liver however she has not had LFTs elevated to this degree (low 
100s) before, all priors are WNL. Hepatitis serologies have been 
checked numerous times previously and are negative. Suspect this 
is nonspecific/reactive and they are down-trending. She may have 
these repeated next week with other labs. 

#Leukocytosis
WBC 12k on the day of discharge, likely reflects receiving a 
dose of solumedrol as part of premedication for CT scan due to 
contrast allergy. 

#Hyperglycemia
Glucose 148 on AM labs on the day of discharge. as above, likely 
reflects receiving a dose of solumedrol as part of premedication 
for CT scan due to contrast allergy. 

#DOE
Likely related to symptomatic anemia. Although fat embolism is a 
possibility in relation to her recent surgery, it would not 
explain her anemia, and she denies chest pain. CTA to r/o PE 
could not be done along with CT A/P given the protocol for 
dye/timing was different, however she was not hypoxemic and 
tachycardia improved with administration of blood. Fatty 
embolism felt to be very unlikely. 

#Recent surgery - ___ butt lift
Bleeding concerns as outlined above however otherwise seemingly 
stable from post op perspective. If any issues she can f/u with 
___ plastics (___).

#Dispo - d/c home today given clinical improvement 

Time spent: 45 minutes
PCP notified of discharge
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Ferrous Sulfate 325 mg PO DAILY 
2. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1.  Ferrous Sulfate 325 mg PO DAILY  
2.  Multivitamins 1 TAB PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Symptomatic anemia, likely due to blood loss
Transaminitis 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

You were admitted to the hospital with feeling very fatigued in 
the setting of anemia. We believe that your anemia is due to 
blood loss from your surgery. Reassuringly, your CT scan did not 
show any active bleeding. Your counts have boosted up with 
transfusions and you are feeling better, as such we will send 
you home. You will need to have your lab work repeated within a 
week to ensure your counts have stabilized. For pain or 
discomfort, we recommend you avoid NSAIDs such as 
motrin/ibuprofen/aleve, and stick to Tylenol, as NSAIDs can lead 
to bleeding. 

In addition to repeating your blood counts, please have your PCP 
repeat your liver enzymes and glucose level. Your liver enzymes 
are normalizing and your glucose was elevated likely from 
receiving a dose of steroids to help prevent a contrast allergy 
for your CT scan. 

If you feel very short of breath or notice significant oozing 
from your dressing sites, please call your PCP/Plastic surgeon 
or return to the ED. You may also contact the ___ plastic 
surgery team if you have any issues at ___.

We wish you the very best!

Sincerely, 
Your care team at ___
 
Followup Instructions:
___